US04202821
2-Nitrothiophenol, 2-bromopropane, potassium carbonate and acetone were refluxed for several hours. The solvent then was removed by rotary evaporation. The crude product was partitioned between methylene chloride and a 10% sodium carbonate solution. The organic phase was distilled to yield 2-isopropylmercaptonitrobenzene.

reactant | 2-Nitrothiophenol | [N+](=O)([O-])C1=C(C=CC=C1)S | C6H5NO2S
reactant | 2-bromopropane | BrC(C)C | C3H7Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-isopropylmercaptonitrobenzene | C(C)(C)SC1=C(C=CC=C1)[N+](=O)[O-] | C9H11NO2S
